data/rdb19/train.csv
rxn,smiles,ea
5443,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])[H:9].[H:10][C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23],22.23718361096689
2530,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][C:21]([C:20]([H:24])([H:25])[H:26])([C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31],33.49143202457344
2575,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[C:23]([H:28])[H:29])[H:27])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[O:21][C:20]([H:24])([H:25])[H:26])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:22](=[C:23]([H:28])[H:29])[H:27],64.1166512821801
5393,[C:17]([C:18]([C:19]([H:20])[H:21])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[H:21])[N:22]([C:23](=[O:24])[H:30])[H:29])([H:25])([H:26])[H:27].[C:1](=[C:2]([C:3]1[C:4]([H:12])([H:28])[C:5]([H:13])=[C:6]([H:14])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],37.26312673796201
3957,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([H:25])([H:26])[H:27]>>[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6]([O:7])([O:8][C:9]([H:21])([H:22])[H:23])[C:24]([H:25])([H:26])[H:27])([H:13])[H:14])([H:10])([H:11])[H:12],26.427132245968096
3578,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20]=[O:21])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[O:22][H:28])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],51.26672700600466
5136,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([O:30][C:31](=[O:32])[C:33]([H:38])([H:39])[H:40])[H:37])([H:34])([H:35])[H:36]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6][c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[H:20][C:27]([C:26]([C:25]([H:34])([H:35])[H:36])([O:30][C:31](=[O:32])[C:33]([H:38])([H:39])[H:40])[H:37])([H:28])[H:29],24.821877546608448
2065,[C:11]([C:12]([C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:14]([H:23])([H:24])[H:25].[N:1]([C:2]1([C:4](=[C:5]([H:9])[H:10])[H:8])[O:3][C:13]1([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])[C:15](=[O:16])[O:17][H:26])([H:6])[H:7],82.94887919467874
3536,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8].[H:14][C:18]([C:17]([H:23])([H:24])[H:25])([O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26],45.66609496058663
4792,[C:1]([H:2])([H:3])[H:4].[C:5](=[C:6]([N:7]([C:8](=[O:9])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:1]([H:2])([H:3])([H:4])[O:9][C:8]([N:7]([C:6](=[C:5]([H:10])[H:11])[H:12])[H:13])[H:14],31.51006532768952
563,[C:3]([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])([N:7]([C:8](=[O:9])[H:20])[H:19])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1][H:2]>>[C:6]([H:16])([H:17])[H:18].[O:1]([H:2])[C:5]([C:4]([C:3]([H:10])([H:11])[H:12])([H:13])[H:14])([N:7]([C:8](=[O:9])[H:20])[H:19])[H:15],50.93683813023381
1317,[C:10]([C:11]([C:12]([H:13])[H:14])([C:15](=[O:16])[O:17][H:22])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[H:14])[C:15](=[O:16])[O:17][H:22])([H:18])([H:19])[H:20].[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[H:21])[H:6],47.65998015663354
